US07855298B2
Preparation 13: 5-{5-[(3-Chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline
To 4-methyl-5-(2-methyl-5-quinolinyl)-2,4-dihydro-3H-1,2,4-triazole-3-thione (3.6 g, prepared in analogy to the method described in WO200240471) in ethanol (60 mL) containing 1-bromo-3-chloropropane (2.0 mL) was carefully added with stirring sodium hydride (0.60 g, 60% in petrolium). The mixture was heated at reflux for 45 min. Volatiles were evaporated in vacuo and the residue submitted to column chromatography (EtOAc -acetone gradient). The material thus obtained was precipitated from hot EtOAc (20 mL) by adding petroleum ether (40-60, 50 mL), cooled and collected by filtration to provide the title compound as colourless crystals (2.1 g).

reactant | 4-methyl-5-(2-methyl-5-quinolinyl)-2,4-dihydro-3H-1,2,4-triazole-3-thione | CN1C(NN=C1C1=C2C=CC(=NC2=CC=C1)C)=S | C13H12N4S
reactant | 1-bromo-3-chloropropane | 2.0 mL | BrCCCCl | C3H6BrCl
reactant | sodium hydride | 0.60 g | [H-].[Na+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 5-{5-[(3-Chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 2.1 g | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
